US09127003B2
Intermediate 23: Methyl 3-methoxy-4-(methylamino)-5-nitrobenzoate
Methyl 4-chloro-3-methoxy-5-nitrobenzoate (available from, for example, Apollo Scientific Ltd) (14 g, 57.0 mmol) was dissolved in N,N-dimethylformamide (DMF) (140 mL) and cooled to ˜0° C. in an ice/water bath. Methanamine (2M in THF) (114 mL, 228 mmol) was added dropwise with vigorous stirring using a dropping funnel and the mixture was flushed with nitrogen and heated at 80° C. for 3 hr. The mixture was allowed to cool to room temperature over the weekend. The reaction mixture was diluted with water (500 mL), and filtered under vacuum to give the title compound as an orange solid (13.69 g).

reactant | Methyl 4-chloro-3-methoxy-5-nitrobenzoate | 57.0 mmol, 14 g | ClC1=C(C=C(C(=O)OC)C=C1[N+](=O)[O-])OC | C9H8ClNO5
reactant | Methanamine | 228 mmol, 2M, 114 mL | CN | CH5N
solvent | N,N-dimethylformamide | 140 mL | CN(C=O)C | C3H7NO
product | Methyl 3-methoxy-4-(methylamino)-5-nitrobenzoate | 13.69 g | COC=1C=C(C(=O)OC)C=C(C1NC)[N+](=O)[O-] | C10H12N2O5
